US06124323
4-Benzyl-1-(2-(2-hydroxynaphth-6-oxy)ethyl)piperidine
A mixture of of 4-benzyl-1-[2-(6-benzyloxy-naphthalen-2-yloxy)-ethyl]-piperidine (0.67 g, 1.48 mmol) and 20% palladium on carbon (0.06 g) in methanol (8 ml) and tetrahydrofuran (8 ml) was shaken on a Parr hydrogenation apparatus under a hydrogen atmosphere (50 psi) for 20 h. After removal of the catalyst, the filtrate was evaporated and the white solid (0.51 g, 95%) was dissolved in tetrahydofuran (5 ml). A solution of isethionic acid in methanol (4.6 ml, 1.28 mmol) was added, and the solid precipitate was filtered off. The solid was washed with tetrahydofuran, and dried in vacuo overnight to give the title compound (0.51 g, 82%), mp139-141° C. Analysis calculated for C24H27NO2 ·C2H6O4S: C, 64.04; H, 6.82; N, 2.87; S, 6.58. Found: C, 63.88; H, 6.77; N, 2.70; S, 6.60.

reactant | 4-benzyl-1-[2-(6-benzyloxy-naphthalen-2-yloxy)-ethyl]-piperidine | 1.48 mmol, 0.67 g | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C31H33NO2
reactant | isethionic acid | S(=O)(=O)(O)CCO | C2H6O4S
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
solvent | methanol | 8 ml | CO | CH4O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | 1.28 mmol, 4.6 ml | CO | CH4O
product | 4-Benzyl-1-(2-(2-hydroxynaphth-6-oxy)ethyl)piperidine | 0.51 g, 82% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC=1C=C2C=CC(=CC2=CC1)O | C24H27NO2
